US04386073
4.5 g (13 mmoles) of BOC-Nva-Met-NH2 are suspended in 20 ml of ethyl acetate, and 20 ml of a 6 n hydrochloric acid solution in ethyl acetate are added to the suspension. After one hour of standing the reaction mixture is diluted with ether, the separated precipitate is filtered off, and dried in vacuo over anhydrous sodium hydroxide. The resulting 4 g of crude product are recrystallized from a mixture of methanol and ether. 3.28 g (89%) of H-Nva-Met-NH2.HCl are obtained; m.p.: 198°-200° C., Rf5 =0.40, [α]D25 =+10.2° (c=1%, in methanol).

reactant | BOC-Nva-Met-NH2 | 13 mmoles, 4.5 g | N([C@@H](CCC)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C15H29N3O4S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | H-Nva-Met-NH2.HCl | 3.28 g, 89% | N[C@@H](CCC)C(=O)N[C@@H](CCSC)C(=O)N.Cl | InChI=1S/C10H21N3O2S.ClH/c1-3-4-7(11)10(15)13-8(9(12)14)5-6-16-2;/h7-8H,3-6,11H2,1-2H3,(H2,12,14)(H,13,15);1H/t7-,8-;/m0./s1
